US06008229
To a solution of 8-[2,6-dichloro-3-(piperazine-1-carbonyl)benzyloxy]-2-methylquinoline dihydrochloride (60 mg) and triethylamine (48.3 mg) in N,N-dimethylformamide (0.6 ml) was added phenyl 4-(methylcarbamoyl)phenylcarbamate (33.8 mg), and the mixture was stirred for 2 hours at 80° C. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (chloroform:methanol=10:1, V/V) to give 8-[2,6-dichloro-3-[4-[4-(methylcarbamoyl)phenylcarbamoyl]piperazine-1-carbonyl]benzyloxy]-2-methylquinoline (61 mg) as colorless amorphous.

reactant | 8-[2,6-dichloro-3-(piperazine-1-carbonyl)benzyloxy]-2-methylquinoline dihydrochloride | 60 mg | Cl.Cl.ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1C(=O)N1CCNCC1)Cl
reactant | triethylamine | 48.3 mg | C(C)N(CC)CC | C6H15N
reactant | phenyl 4-(methylcarbamoyl)phenylcarbamate | 33.8 mg | CNC(=O)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C15H14N2O3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 0.6 ml | CN(C=O)C | C3H7NO
product | 8-[2,6-dichloro-3-[4-[4-(methylcarbamoyl)phenylcarbamoyl]piperazine-1-carbonyl]benzyloxy]-2-methylquinoline | 61 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1C(=O)N1CCN(CC1)C(NC1=CC=C(C=C1)C(NC)=O)=O)Cl | C31H29Cl2N5O4
